US06329342B1
2-(4-Nitroimidazolyl)-2-phenylacetic acid
Lithium hydroxide (18.1 g, 750 mm, 2 eq) was added to a stirred slurry of ethyl 2-(4-nitroimidazoyl)-2-phenylacetate (Preparation 11 from Examples Part 1) (104 g, 379 mm) in 250 mL of ethanol. Deionized water was added to the resulting mixture and the stirring was continued for 4 hours. The ethanol was removed under vacuum and the resulting aqueous solution was washed with 100 mL of diethyl ether. The aqueous layer was diluted with 100 mL of deionized water and the pH was adjusted to 1.8 with concentrated HCl after cooling to 12° C. The resulting slurry was stirred for 30 minutes at less than 5 degrees and filtered. The wet cake was washed with 100 mL of deionized water and dried under a stream of air on the filter overnight to yield 90.34 g (96%) of a brown solid. The product may be recrystallized from isopropyl alcohol to give 72.31 g (80% recovery, 77% overall yield) of a tan solid. Elemental analysis: Calculated: %C, 53.45; %H, 3.67; %N, 16.97; Found: %C, 53.67; %H, 3.79; %N, 16.65. MS: 247 (M+): IR (cm−1)1719; H1 nmr (d6 DMSO): d 6.51 (s, 1H), 7.43-7.55 (m,5H), 7.95 (s,1H), 8.40 (s, 1H)

reactant | Lithium hydroxide | 18.1 g, 2 eq | [OH-].[Li+]
reactant | ethyl 2-(4-nitroimidazoyl)-2-phenylacetate | 104 g | [N+](=O)([O-])C=1N=C(NC1)C(=O)C(C(=O)OCC)C1=CC=CC=C1 | C14H13N3O5
reactant | water | O | H2O
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | 2-(4-Nitroimidazolyl)-2-phenylacetic acid | 90.34 g, 96% | [N+](=O)([O-])C=1N=C(NC1)C(C(=O)O)C1=CC=CC=C1 | C11H9N3O4
